US06001810
Synthesis of N-[(1,1-dimethylethoxy)carbonyl]-4-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-L-phenylalanine (Boc-paF(Fmoc))
Boc-para-aminophenylalanine (2.6 mmol; 0.72 g) was dissolved in 12 ml of dichloromethane (DCM) (from Dow Chemical, Midland, Mich.) containing 3.85 mmol of triethylamine (TEA) (from Aldrich, Milwaukee, Wis.; distilled before use). 1.3 Grams (3.85 mmol) of Fmoc-N-hydroxysuccinimide was added and the solution was left at room temperature for 10 hours. The solution was evaporated to dryness in vacuo. The residue was dissolved in 100 ml ethyl acetate and washed with 50 ml of 5% NaHCO3. The solution was filtered and the NaHCO3 wash was repeated two more times. The precipitate from the three NaHCO3 washes was then extracted with a mixture of three parts (v/v) ethyl acetate to one part saturated KHSO4. The organic layer was isolated and concentrated in vacuo. After removal of most of the ethyl acetate by vacuum the product was precipitated with petroleum ether. The product was recrystallized twice using an ethyl acetate-petroleum ether mixture to yield 0.83 g (64%) with a melting point of 118-120° C. Thin layer chromatography was performed according to well-known procedures and displayed a spot with Rf=0.28. [α]D21 =-6.29 (c1.7, DMF).

reactant | Boc-para-aminophenylalanine | 2.6 mmol, 0.72 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)N)C(=O)O | C14H20N2O4
reactant | triethylamine | 3.85 mmol | C(C)N(CC)CC | C6H15N
reactant | Fmoc-N-hydroxysuccinimide | 3.85 mmol | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C1C(=O)N(C(C1)=O)O | C19H15NO5
reactant | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | N-[(1,1-dimethylethoxy)carbonyl]-4-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-L-phenylalanine | CC(C)(OC(=O)N[C@@H](CC1=CC=C(C=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O)C | C29H30N2O6
